US08633186B2
1-(3-hydroxy-2,2-dimethylpropyl)-3-(4-methoxybenzyl)urea
Prepared as in Example 227d from 3-amino-2,2-dimethylpropan-1-ol and 4-methoxybenzyl isocyanate in 100% yield. MS 267 (MH+).

reactant | 3-amino-2,2-dimethylpropan-1-ol | NCC(CO)(C)C | C5H13NO
reactant | 4-methoxybenzyl isocyanate | COC1=CC=C(CN=C=O)C=C1 | C9H9NO2
product | 1-(3-hydroxy-2,2-dimethylpropyl)-3-(4-methoxybenzyl)urea | 100% yield | OCC(CNC(=O)NCC1=CC=C(C=C1)OC)(C)C | C14H22N2O3
